US07105548B2
2-Ethynylpyridine (3.1 g, 30 mmol) and trimethylsilylazide (7.9 mL, 60 mmol) were combined under Ar (g) and heated at 95° C. for 18 h. After cooling to ambient temperature, Et2O (50 mL) and H2O (2 mL) were added and the resulting reaction mixture was stirred for 2 h. The reaction mixture was then extracted with H2O (3×50 mL) and the organic layer extracted with 1M KOH (3×30 mL). The two aqueous layers were combined and the pH adjusted to 7 with HCl (2M), extracted with EtOAc (3×50 mL), dried over Na2SO4 and concentrated in vacuo to afford 2-(2H-1,2,3-triazol-4-yl)pyridine as a brown solid that was used without further purification.

reactant | 2-Ethynylpyridine | 30 mmol, 3.1 g | C(#C)C1=NC=CC=C1 | C7H5N
reactant | trimethylsilylazide | 60 mmol, 7.9 mL | C[Si](C)(C)N=[N+]=[N-] | C3H9N3Si
reactant | Et2O | 50 mL | CCOCC | C4H10O
solvent | H2O | 2 mL | O | H2O
product | 2-(2H-1,2,3-triazol-4-yl)pyridine | N=1NN=C(C1)C1=NC=CC=C1 | C7H6N4
